US09315521B2
2-{[(2,4-dichloropyridin-3-yl)methyl]sulfanyl}-6-(trifluoromethyl)pyrimidin-4-ol
A mixture of 3-(bromomethyl)-2,4-dichloropyridine (2.9 g, 12.3 mmol), 2-sulfanyl-6-(trifluoromethyl)pyrimidin-4-ol (1.2 g, 6.1 mmol), and triethylamine (1.3 mL, 9.3 mmol) in absolute ethanol (25 mL) was stirred at room temperature overnight. The mixture was evaporated to dryness. The residue was dissolved in EtOAc (80 mL). The solution was extracted with water (3×50 mL) and 1 N NaOH (1×50 mL). The organic layer was recovered, dried over MgSO4, filtered, evaporated, and dried in vacuo. The crude product was purified by flash chromatography (0-5% MeOH/DCM), affording the title compound (475 mg, 22% yield); 1H NMR (400 MHz, DMSO-d5): δ 4.75 (s, 2H), 6.72 (s, 1H), 7.69 (d, 1H, J=5.3 Hz), 8.36 (d, 1H, J=5.3 Hz); M+357.

reactant | 3-(bromomethyl)-2,4-dichloropyridine | 12.3 mmol, 2.9 g | BrCC=1C(=NC=CC1Cl)Cl | C6H4BrCl2N
reactant | 2-sulfanyl-6-(trifluoromethyl)pyrimidin-4-ol | 6.1 mmol, 1.2 g | SC1=NC(=CC(=N1)O)C(F)(F)F | C5H3F3N2OS
reactant | triethylamine | 9.3 mmol, 1.3 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2-{[(2,4-dichloropyridin-3-yl)methyl]sulfanyl}-6-(trifluoromethyl)pyrimidin-4-ol | 475 mg, 22% yield | ClC1=NC=CC(=C1CSC1=NC(=CC(=N1)O)C(F)(F)F)Cl | C11H6Cl2F3N3OS
